US06518420B2
or enzymatically, e.g. by action of an acylase; or by conversion of cephalosporin C into glutaryl-7-amino-cephalosporanic acid, e.g. by action of a D-amino acid oxidase, enzymatically hydrolysing a glutaryl-7-amino cephalosporanic acid to obtain 7-ACA, e.g. in a basic medium, neutral or slightly acidic medium, optionally purifying the reaction solution with an appropriate ion exchanger or adsorber resin, and precipitating 7-ACA, e.g. by adjustment of the pH (around the isoelectric point), e.g. by addition of an acid, e.g. HCl. In that case precipitated 7-ACA may be, however, in the form of very small, loose, needle-like crystals difficult to be isolated. Increasing purity of 7-ACA may result in still smaller crystals and addition of an organic solvent, e.g. a, e.g. lower, alcohol, e.g. methanol or a ketone, e.g. acetone, to the reaction mixture before the isolation of 7-ACA, which may improve the yield, again may result in considerably smaller crystals.

reactant | cephalosporin C | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCC[C@H](C(=O)O)N)SC1)C(=O)O | C16H21N3O8S
reactant | glutaryl-7-amino-cephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O | C15H18N2O8S
product | 7-ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
